2183-11-30 08:37:00 Physician Resident Progress Note
Chief Complaint: AMS
   24 Hour Events:
   -CT head unchanged from prior; no bleed
   -ctx/vanco/amp started empirically
   -son requesting [**Name2 (NI) 3213**] eval re: ICP monitoring, Burr hole;  Dr. [**First Name (STitle) **]
   of [**First Name (STitle) 3213**] does not think this would be helpful at this time.
   -seen by [**Doctor Last Name 3214**] of renal who wanted to continue hypertonic saline at
   10cc/hr for now
   - Pt continuing to have difficult with positioning. Needs
   nasopharyngeal tube to keep airway open and having frequent need for
   suctioning
   - Talked to pharmacy about concentrating pt's medications
   - added IV flagyl to cover gram negatives and possible aspiration PNA
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-11-29**] 06:50 AM
   Metronidazole - [**2183-11-30**] 01:52 AM
   Ampicillin - [**2183-11-30**] 05:13 AM
   Ceftriaxone - [**2183-11-30**] 05:13 AM
   Acyclovir - [**2183-11-30**] 05:27 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2183-11-29**] 10:40 PM
   Pantoprazole (Protonix) - [**2183-11-30**] 12:00 AM
   Other medications:
   Changes to medical and family history:none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to attain as pt currently unresponsive
   Flowsheet Data as of  [**2183-11-30**] 08:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.3
C (99.1
   HR: 86 (70 - 96) bpm
   BP: 135/72(88) {131/68(87) - 171/91(119)} mmHg
   RR: 22 (20 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,160 mL
                                                                    618 mL
   PO:
             TF:
   IVF:
                                                                  2,035 mL
                                                                    618 mL
   Blood products:
   Total out:
                                                                  2,175 mL
                                                                    390 mL
   Urine:
                                                                  1,875 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -15 mL
                                                                    228 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: surgical pupils
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   188 K/uL
   14.0 g/dL
   164 mg/dL
   1.2 mg/dL
   24 mEq/L
   4.2 mEq/L
   36 mg/dL
   102 mEq/L
   136 mEq/L
   39.6 %
   12.1 K/uL
        [image002.jpg]
                             [**2183-11-29**]  04:17 AM
                             [**2183-11-29**]  04:00 PM
                             [**2183-11-30**]  04:16 AM
   WBC
   18.9
   16.6
   12.1
   Hct
   38.2
   40.5
   39.6
   Plt
   249
   211
   188
   Cr
   1.2
   1.2
   1.2
   Glucose
   [**Telephone/Fax (3) 3215**]
   Other labs: PT / PTT / INR:13.1/24.4/1.1, ALT / AST:54/18, Alk Phos / T
   Bili:52/0.6, Differential-Neuts:92.7 %, Lymph:1.5 %, Mono:5.6 %,
   Eos:0.2 %, Albumin:2.9 g/dL, LDH:255 IU/L, Ca++:8.3 mg/dL, Mg++:2.6
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Dr. [**Known lastname 976**] is a 84 y/o with a h/o of suspected renal cell ca, L eye
   melenoma s/p enucleation, and recent dx of GBM s/p temozolomide
   chemo-irradiation on [**2183-11-18**], bevacizumab on [**2183-11-24**] who was admitted
   on [**11-27**] from onc clinic with gait instability, dyspahagia, diarrhea,
   and left sided weakness now being transferred to the ICU with declining
   mental status and worsening hyponatremia.
   .
   #. GBM: Presenting with evidence of frontal lobe dysfunction, magnetic
   gait and slowed speech, and worsening left sided weakness now with
   progressive decline in responsiveness this pm while on the floor.
   Neurologic decline concerning in the setting of XRT and may be result
   of increasing brain edema; now s/p increase in IV decadron dose.  [**11-27**]
   MRI also showed new findings in right lateral ventricle concerning for
   infectious process and given facial skin lesions, he has been receiving
   empiric acyclovir.
   -increased ICP precautions, head bed > 30 degrees
   -q1h neuro checks
   -zofran prn
   -autoreg bp
   -continue IV decadron at higher dose of 6mg IV q6h as per neuro onc
   attending
   -continue seizure prophylaxis with keppra
   -will continue temozolomide currently with further discussion with onc
   in am
   -appreciate palliative care involvement and recommendations
   .
   #. Mental status decline:  Differential includes edema [**3-1**] XRT,
   infectious encephalopathy (specifically herpes), hyponatremia,
   infection, medication induced.   Does appear to be more hypertensive
   than previously with SBPs 160s; not bradycardic
concerning for
   increasing ICP.  He has been afebrile (although on decadron and had low
   grade temp to 99.8 this pm).  He does have leukocytosis stable since
   [**11-19**] (noted prior to this admission while on decadron as outpatient).
   No clear localizing sx of infection beyond diarrhea and dMS although
   most recent CXR with perhaps slight hazy opacity RML which may
   represent developing infiltrate vs. atelectasis alone.  Bacterial CNS
   infections also possible, but seem less likely given known GBM and
   herpetic facial lesions.  Subclinical seizures possible, however less
   likely given EEG [**11-28**] demonstrating encephalopathy without clear
   epileptoform activity.  Although he is hyponatremic, seems unlikely
   causing acute decline in his mental status as it appears sodium has
   drifted down less acutely prior to this admission (139 on [**11-8**]-->130
   on [**11-24**]-->126 on [**11-28**].  He has been receiving ativan for hiccups, but
   it appears that he had tolerated this well PTA without significant
   decline in mental status.
   -repeat head CT now
   -hold ativan for now; will restart if uncomfortable with hiccups as
   this reportedly was helping
   -continue management for GBM as above, specifically with increased dose
   of decadron IV
   -management of hyponatremia as outlined below
   -continue empiric acyclovir
   -consider ctx/vanco empirically given bx; although lower suspicion
   given peri-bx abx and bx performed [**11-5**] so seems far out
   -f/u cultures including urine, blood, stool given diarrhea
   -can repeat CXR if resp status declines, fever, rising WBC count to
   eval for blossoming right sided pneumonia
   .
   #. Hyponatremia: By history and on exam, would suggest hypovolemic
   hyponatremia in setting of poor PO (now NPO) and diarrhea.  However,
   given active intracranial process and urine lytes (Uosm 879, UNa 85),
   appears more c/w SIADH.
   -Continue hypertonic saline as per renal
   -will follow lytes q2-4 and adjuest hypertonic saline as appropriate
   with goal correction to 138 over next 24 hours
   .
   #. Leukocytosis:  Unclear when exactly decadron started as outpatient
   (? [**11-14**]), however WBC count was normal on [**11-8**] and no WBC count
   checked until [**11-24**] at which time WBC was elevated.  Thus, may be
   secondary to steroids alone.  In the setting of diarrhea and recent
   hospitalization mid [**Month (only) 1148**], c. diff is possible.  Diarrhea, however,
   may be result of poor PO and temozolomide and unrelated to elevated WBC
   count.
   -continue to monitor
   -empiric acyclovir
   -pan culturing
   -awaiting c. diff; if diarrhea persists will start empiric
   metronidazole
   .
   #. Hyperglycemia:  Predates this admission and likely at least impaired
   glucose tolerance.  Now elevated in the setting of steroids.
   -continue ISS
   .
   #. Diarrhea:  Duration unclear, worrisome for c.diff given recent
   admission and abx.
   -sending stool studies, c. diff
   .
   #. Anemia:  Low grade anemia beginning with diagnosis of GBM and
   suspect likely AOCD.  Normal MCV and RDW.  No iron studies in our
   system.  B12 low (not on supplementation?), folate normal.
   - guaiac stools
   - checking iron studies
   .
   #. Facial lesions: Likely herpetic, has been on acyclovir
   -continue acyclovir
   .
   #. Hiccups: Currently stable and given declining mental status, will
   hold ativan for now and reinstitute prn.
   .
   #. PPX: On SC heparin tid.  PPI while on steroids and given CNS
   malignancy.
   #. FEN: Free water fluid restriction of 1500cc, NPO, aspiration risk
   witnessed choking on water.  Holding TFs currently d/t worsened hiccups
   and residuals on the floor.
   -reassess residuals in am
   .
   #. Code: DNR/DNI.  Will continue ongoing discussions with family and
   palliative care if clinically status continues to decline.
   # Contact: wife [**Telephone/Fax (1) 3194**], Dtr [**Telephone/Fax (1) 3195**], son [**Name (NI) **] [**Telephone/Fax (1) 3196**].
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2183-11-29**] 02:05 AM
   20 Gauge - [**2183-11-29**] 02:06 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2183-12-01 06:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - TF started
   - Patient remains unresponsive, not protecting airway
   - Asked neuro-onc, Dr. [**Last Name (STitle) 2351**], who defered LP (not useful for Cx as
   patient already on Abx, but may show malignant cells)
   - Na corrected to 139.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-11-30**] 12:11 PM
   Metronidazole - [**2183-12-1**] 01:42 AM
   Acyclovir - [**2183-12-1**] 05:19 AM
   Ceftriaxone - [**2183-12-1**] 05:19 AM
   Ampicillin - [**2183-12-1**] 05:29 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2183-11-30**] 11:15 PM
   Pantoprazole (Protonix) - [**2183-12-1**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-12-1**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.3
C (99.1
   HR: 84 (58 - 136) bpm
   BP: 119/72(83) {118/54(70) - 160/86(100)} mmHg
   RR: 33 (19 - 45) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  2,729 mL
                                                                    971 mL
   PO:
             TF:
                                                                    489 mL
                                                                    167 mL
   IVF:
                                                                  2,130 mL
                                                                    805 mL
   Blood products:
   Total out:
                                                                  1,275 mL
                                                                    480 mL
   Urine:
                                                                  1,275 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,454 mL
                                                                    491 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: surgical pupils
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   162 K/uL
   13.1 g/dL
   202 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.0 mEq/L
   36 mg/dL
   105 mEq/L
   141 mEq/L
   37.5 %
   11.1 K/uL
        [image002.jpg]
                             [**2183-11-29**]  04:17 AM
                             [**2183-11-29**]  04:00 PM
                             [**2183-11-30**]  04:16 AM
                             [**2183-11-30**]  06:00 PM
                             [**2183-11-30**]  11:24 PM
                             [**2183-12-1**]  05:00 AM
   WBC
   18.9
   16.6
   12.1
   11.1
   11.1
   Hct
   38.2
   40.5
   39.6
   37.2
   37.5
   Plt
   249
   211
   188
   160
   162
   Cr
   1.2
   1.2
   1.2
   1.1
   1.0
   0.9
   Glucose
   [**Telephone/Fax (3) 3233**]61
   281
   202
   Other labs: PT / PTT / INR:12.5/24.0/1.1, ALT / AST:54/18, Alk Phos / T
   Bili:52/0.6, Differential-Neuts:92.7 %, Lymph:1.5 %, Mono:5.6 %,
   Eos:0.2 %, Albumin:2.9 g/dL, LDH:255 IU/L, Ca++:8.0 mg/dL, Mg++:2.6
   mg/dL, PO4:3.9 mg/dL
   84 y/o with a h/o of suspected renal cell ca, L eye melenoma s/p
   enucleation, and recent dx of GBM s/p temozolomide chemo-irradiation on
   [**2183-11-18**], bevacizumab on [**2183-11-24**] who was admitted on [**11-27**] from onc
   clinic with gait instability, dyspahagia, diarrhea, and left sided
   weakness now being transferred to the ICU with declining mental status
   and worsening hyponatremia.
   .
   #. GBM: Presenting with evidence of frontal lobe dysfunction, magnetic
   gait and slowed speech, and worsening left sided weakness now with
   progressive decline in responsiveness this pm while on the floor.
   Neurologic decline concerning in the setting of XRT and may be result
   of increasing brain edema; now s/p increase in IV decadron dose.  [**11-27**]
   MRI also showed new findings in right lateral ventricle concerning for
   infectious process and given facial skin lesions, he has been receiving
   empiric acyclovir.
   -increased ICP precautions, head bed > 30 degrees
   -q1h neuro checks
   -zofran prn
   -autoreg bp
   -continue IV decadron at higher dose of 6mg IV q6h as per neuro onc
   attending
   -continue seizure prophylaxis with keppra
   -will continue temozolomide currently with further discussion with onc
   in am
   -family not interested in palliative care at this time.
   .
   #. Mental status decline:  Differential includes edema [**3-1**] XRT,
   infectious encephalopathy (specifically herpes), hyponatremia,
   infection, medication induced. Hyponatremia now resolved.  Medications
   thought unlikely. Pt empirically on ampicillin, ceftriaxone, vanco and
   acyclovir.
   -hold sedating medications except for PRN morphine for now.
   -continue management for GBM as above, specifically with increased dose
   of decadron IV
   -f/u cultures including urine, blood, stool given diarrhea (all
   currently negative)
   -Pt also on flagyl for coverage of possible aspiration during time of
   AMS.
   - Consider LP- will talk to Dr. [**Last Name (STitle) 2351**] about this today
   .
   #. Hyponatremia: Now resolved at 136. Hypertonic saline d/c
   .
   #. Leukocytosis:  [**Month (only) 51**] be secondary to steroids alone.  In the setting
   of diarrhea and recent hospitalization mid [**Month (only) 1148**], c. diff is possible
   but pt neg x1.  Diarrhea may be result of poor PO and temozolomide and
   unrelated to elevated WBC count.
   -continue to monitor
   -empiric acyclovir
   .
   #. Hyperglycemia:  Predates this admission and likely at least impaired
   glucose tolerance.  Now elevated in the setting of steroids.
   -continue ISS
   .
   #. Diarrhea:  Duration unclear, worrisome for c.diff given recent
   admission and abx however neg x1.
   -ordered rpt c. diff
   .
   #. Anemia:  Low grade anemia beginning with diagnosis of GBM and
   suspect likely AOCD.  Normal MCV and RDW.  No iron studies in our
   system.  B12 low (not on supplementation?), folate normal.
   - guaiac stools
   - checking iron studies
   .
   #. Facial lesions: Likely herpetic, has been on acyclovir
   -continue acyclovir
   .
   #. Hiccups: Currently stable and given declining mental status, will
   hold ativan for now.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2183-12-1**] 03:16 AM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2183-11-29**] 02:05 AM
   20 Gauge - [**2183-11-29**] 02:06 AM
   Prophylaxis:
   #. PPX: On SC heparin tid.  PPI while on steroids and given CNS
   malignancy.
   #. FEN: Will restart TF today per nutrition recs. Check residuals
   #. Code: DNR/DNI.
   # Contact: wife [**Telephone/Fax (1) 3194**], Dtr [**Telephone/Fax (1) 3195**], son [**Name (NI) **]  (HCP)
   [**Telephone/Fax (1) 3196**].
   Disposition:

2183-12-01 11:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2183-11-30**] 11:00 PM
   Atrial fibrillaiton with RVR for which he received lopressor with
   improved rate
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-11-30**] 12:11 PM
   Metronidazole - [**2183-12-1**] 01:42 AM
   Acyclovir - [**2183-12-1**] 05:19 AM
   Ceftriaxone - [**2183-12-1**] 05:19 AM
   Ampicillin - [**2183-12-1**] 05:29 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2183-11-30**] 11:15 PM
   Pantoprazole (Protonix) - [**2183-12-1**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2183-12-1**] 11:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.9
C (98.4
   HR: 90 (58 - 136) bpm
   BP: 106/69(77) {93/54(63) - 160/86(100)} mmHg
   RR: 15 (15 - 45) insp/min
   SpO2: 94%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 66 Inch
             Total In:
                                                                  2,290 mL
                                                                  1,239 mL
   PO:
             TF:
                                                                     50 mL
                                                                    243 mL
   IVF:
                                                                  2,130 mL
                                                                    936 mL
   Blood products:
   Total out:
                                                                  1,275 mL
                                                                    780 mL
   Urine:
                                                                  1,275 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,015 mL
                                                                    459 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: Prosthetic eye, surgical pupil
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   13.1 g/dL
   162 K/uL
   202 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.0 mEq/L
   36 mg/dL
   105 mEq/L
   141 mEq/L
   37.5 %
   11.1 K/uL
        [image002.jpg]
                             [**2183-11-29**]  04:17 AM
                             [**2183-11-29**]  04:00 PM
                             [**2183-11-30**]  04:16 AM
                             [**2183-11-30**]  06:00 PM
                             [**2183-11-30**]  11:24 PM
                             [**2183-12-1**]  05:00 AM
   WBC
   18.9
   16.6
   12.1
   11.1
   11.1
   Hct
   38.2
   40.5
   39.6
   37.2
   37.5
   Plt
   249
   211
   188
   160
   162
   Cr
   1.2
   1.2
   1.2
   1.1
   1.0
   0.9
   Glucose
   [**Telephone/Fax (3) 3233**]61
   281
   202
   Other labs: PT / PTT / INR:12.5/24.0/1.1, ALT / AST:54/18, Alk Phos / T
   Bili:52/0.6, Differential-Neuts:92.7 %, Lymph:1.5 %, Mono:5.6 %,
   Eos:0.2 %, Albumin:2.9 g/dL, LDH:255 IU/L, Ca++:8.0 mg/dL, Mg++:2.6
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB) on lopressor.  Rate controlled.
 ALTERED MENTAL STATUS (NOT DELIRIUM):  Likely multifactorial. No
   improvement with resolution of hyponatremia.  Continues empiric
   antibiotics (vanco/amp/CTX/acycolvir) for possibility of infection.
 GBM:  Need to discuss plan with patient's primary care physician and
   family regarding goals of care.  Had been scheduled for XRT albeit now
   on hold.
 DIARRHEA:  On empiric flagyl. Stool for C. Diff.  No stools today.
   ICU Care
   Nutrition:
   Comments: STarted on tube feeds, titrating to goal.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2183-11-29**] 02:05 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2183-12-02 06:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - No change in clinical status
   - No indication for Brain XRT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-11-30**] 12:11 PM
   Metronidazole - [**2183-12-2**] 01:50 AM
   Ceftriaxone - [**2183-12-2**] 05:59 AM
   Acyclovir - [**2183-12-2**] 05:59 AM
   Ampicillin - [**2183-12-2**] 05:59 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-12-1**] 11:34 PM
   Other medications:
   Changes to medical and family history: No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: Not able to obtain
   Flowsheet Data as of  [**2183-12-2**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.8
   HR: 62 (55 - 99) bpm
   BP: 160/65(89) {93/50(63) - 160/79(89)} mmHg
   RR: 23 (15 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,978 mL
                                                                  1,064 mL
   PO:
             TF:
                                                                  1,236 mL
                                                                    284 mL
   IVF:
                                                                  1,683 mL
                                                                    779 mL
   Blood products:
   Total out:
                                                                  1,290 mL
                                                                    300 mL
   Urine:
                                                                  1,290 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,688 mL
                                                                    764 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: Surgical pupils
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube
   Cardiovascular: S1S2 irregular
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   162 K/uL
   13.1 g/dL
   256
   1.0 mg/dL
   29 mEq/L
   3.9 mEq/L
   39 mg/dL
   108 mEq/L
   144 mEq/L
   37.5 %
   11.1 K/uL
         [image002.jpg]
                             [**2183-11-29**]  04:17 AM
                             [**2183-11-29**]  04:00 PM
                             [**2183-11-30**]  04:16 AM
                             [**2183-11-30**]  06:00 PM
                             [**2183-11-30**]  11:24 PM
                             [**2183-12-1**]  05:00 AM
                             [**2183-12-1**]  03:50 PM
                             [**2183-12-1**]  06:00 PM
   WBC
   18.9
   16.6
   12.1
   11.1
   11.1
   Hct
   38.2
   40.5
   39.6
   37.2
   37.5
   Plt
   249
   211
   188
   160
   162
   Cr
   1.2
   1.2
   1.2
   1.1
   1.0
   0.9
   1.0
   Glucose
   [**Telephone/Fax (3) 3233**]61
   [**Telephone/Fax (2) 3258**]56
   Other labs: PT / PTT / INR:12.5/24.0/1.1, ALT / AST:54/18, Alk Phos / T
   Bili:52/0.6, Differential-Neuts:92.7 %, Lymph:1.5 %, Mono:5.6 %,
   Eos:0.2 %, Albumin:2.9 g/dL, LDH:255 IU/L, Ca++:8.0 mg/dL, Mg++:2.5
   mg/dL, PO4:1.9 mg/dL
   84 y/o with recent dx of GBM with declining mental status
   .
   #. Mental Status Decline: Etiology remains unclear however most likely
   secondary to GBM. Pt on broad spectrum abx for question meningitis with
   Vanc/Ceftriaxone/Amp/Acylcovir. In addition empiric tx for C. Diff
   given high WBC previously and loose stool. Decision made not to LP
   since would not change tx. Pt not on sedation. Hyponatremia now
   resolved.
   - Cont Vanc/Ceftriaxone/Amp/Acylcovir
   - Hold sedating medications except for PRN morphine for now.
   - Continue management for GBM as below, specifically with increased
   dose of decadron IV
   - F/u cultures including urine, blood, stool given diarrhea (all
   currently negative)
    -Pt also on flagyl for coverage of possible aspiration during time of
   AMS
   - Pt on room air
   .
   #. GBM: Stable on CT. Potential for carcinomatous meningitis. However
   decision made not to tap. Pt scheduled for ? XRT today.
   - continue IV decadron at higher dose of 6mg IV q6h as per neuro onc
   attending
   - Speak with Dr. [**Last Name (STitle) 2351**] regarding further XRT and/or chemo treatment
   - Frequent neuro checks
   - head of bed at 30 degrees
   - zofran prn
   - autoreg bp
   - continue seizure prophylaxis with keppra
   - will continue temozolomide currently with further discussion with onc
   in am
   - palliative care following ([**First Name8 (NamePattern2) 376**] [**Last Name (NamePattern1) 377**])
   .
   # AF with RVR: HR to 130s overnight with carotid massage revealing
   underlying AF.
   - Cont Metoprolol [**Hospital1 7**]
   ..
   #. Hyponatremia: Now resolved at 141. Hypertonic saline d/c
   .
   #. Hyperglycemia:  Predates this admission and likely at least impaired
   glucose tolerance.  Now elevated in the setting of steroids.
   -continue ISS with adjustment for better FS control
   .
   #. Anemia:  Low grade anemia beginning with diagnosis of GBM and
   suspect likely AOCD.  Normal MCV and RDW.  No iron studies in our
   system.  B12 low (not on supplementation?), folate normal.
   - guaiac stools
   - checking iron studies
   .
   #. Facial lesions: Question herpetic.
   -continue acyclovir
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2183-12-1**] 11:00 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2183-11-29**] 02:05 AM
   Prophylaxis:
   #. PPX: SQH.  PPI while on steroids and given CNS malignancy.
   #. FEN: Will restart TF today per nutrition recs. Check residuals
   #. Code: DNR/DNI.
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2183-12-03 06:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -At approx 9am, pt with incr resp distress. Family contact[**Name (NI) **]. [**Name2 (NI) 40**], labs
   and other meds initially discontinued. Only morphine gtt, tylenol prn,
   keppra, ativan prn continued. Acyclovir added back. Family at bedside
   throughout the day.
   - Tm 101.1
F tylenol given, no cultures sent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-11-30**] 12:11 PM
   Metronidazole - [**2183-12-2**] 01:50 AM
   Ampicillin - [**2183-12-2**] 05:59 AM
   Ceftriaxone - [**2183-12-2**] 05:59 AM
   Acyclovir - [**2183-12-2**] 09:10 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2183-12-2**] 10:45 AM
   Other medications:
   Changes to medical and family history: No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: Not obtained
   Flowsheet Data as of  [**2183-12-3**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.4
C (101.1
   HR: 140 (75 - 140) bpm
   BP: 122/65(79) {113/57(70) - 188/98(121)} mmHg
   RR: 18 (15 - 32) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  2,207 mL
                                                                    742 mL
   PO:
             TF:
                                                                    406 mL
   IVF:
                                                                  1,801 mL
                                                                    742 mL
   Blood products:
   Total out:
                                                                    580 mL
                                                                      0 mL
   Urine:
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,627 mL
                                                                    742 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ////
   Physical Examination
   Gen: Not responsive or withdrawling to painful stimuli
   HEENT: Surgical pupils
   Resp: Bronchial sounds anteriorly, unable to obtain posterior lung exam
   Card: S1S2 Tachy No MRG
   Abd: BS+
   Extr: 2+ DP, no edema
   Labs / Radiology
   155 K/uL
   12.9 g/dL
   308 mg/dL
   1.2 mg/dL
   26 mEq/L
   4.2 mEq/L
   47 mg/dL
   111 mEq/L
   146 mEq/L
   35.2 %
   12.8 K/uL
        [image002.jpg]
                             [**2183-11-29**]  04:17 AM
                             [**2183-11-29**]  04:00 PM
                             [**2183-11-30**]  04:16 AM
                             [**2183-11-30**]  06:00 PM
                             [**2183-11-30**]  11:24 PM
                             [**2183-12-1**]  05:00 AM
                             [**2183-12-1**]  03:50 PM
                             [**2183-12-1**]  06:00 PM
                             [**2183-12-2**]  06:00 AM
   WBC
   18.9
   16.6
   12.1
   11.1
   11.1
   12.8
   Hct
   38.2
   40.5
   39.6
   37.2
   37.5
   35.2
   Plt
   249
   211
   188
   160
   162
   155
   Cr
   1.2
   1.2
   1.2
   1.1
   1.0
   0.9
   1.0
   1.2
   Glucose
   [**Telephone/Fax (3) 3233**]61
   [**Telephone/Fax (3) 3293**]
   Other labs: PT / PTT / INR:12.5/24.0/1.1, ALT / AST:54/18, Alk Phos / T
   Bili:52/0.6, Differential-Neuts:92.7 %, Lymph:1.5 %, Mono:5.6 %,
   Eos:0.2 %, Albumin:2.9 g/dL, LDH:255 IU/L, Ca++:7.7 mg/dL, Mg++:2.7
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   84 y/o with recent dx of GBM with declining mental status
   .
   # Respiratory Distress: Pt appearing on rounds yesterday, more
   comfotable today. with RR >30, working hard, rhonchi bilaterally.
   -          On Morphine drip titrated for comfort
   -          Plan previously discussed with family, and will notify
   family immediately of pt
s respiratory distress
   -          Tm [**Age over 90 516**] yesterday, pt potentially has aspiration PNA. Further
   discussions with family needed to discuss goals of care as to whether
   add back [**Age over 90 **].
   # Change in Mental Status: Etiolgy remains unclear. Likely secondary to
   GBM status post chemoradiation. As per family
s wishes will continue
   with Acyclovir, Maintenance fluids. Holding off LP as will not change
   management.
   -          Cont Acyclovir
   -          Cont Maintenance fluids
   ICU Care
   PICC Line - [**2183-11-29**] 02:05 AM
   Prophylaxis:
   DVT: None
   Stress ulcer: None
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: [**Hospital Unit Name 1**] with family discussions today

2183-12-03 14:24:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.1
F - [**2183-12-2**] 09:00 PM
   Afib overnight with increased ventricular rate, JR 130-150's, pressure
   97/60
   Increased respiratory distress this am initially resolved with
   repostioning
   Progressively more tachypneic over the course of the morning; in room
   with son [**Name (NI) 129**] early afternoon - observing increased respiratory effort
   requested assessment for need for increased morphine
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2183-12-2**] 01:50 AM
   Ampicillin - [**2183-12-2**] 05:59 AM
   Ceftriaxone - [**2183-12-2**] 05:59 AM
   Acyclovir - [**2183-12-3**] 08:00 AM
   Infusions:
   Morphine Sulfate - 38 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2183-12-3**] 02:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.4
C (101.1
   HR: 147 (104 - 150) bpm
   BP: 94/50(61) {92/40(57) - 133/79(93)} mmHg
   RR: 24 (16 - 28) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  2,206 mL
                                                                  1,871 mL
   PO:
             TF:
                                                                    406 mL
   IVF:
                                                                  1,800 mL
                                                                  1,871 mL
   Blood products:
   Total out:
                                                                    580 mL
                                                                    100 mL
   Urine:
                                                                    580 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,626 mL
                                                                  1,771 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: ////
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: enucleation; surgical pupil
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: throughout)
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, erythema heels, ?early pressure-related  changes
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.9 g/dL
   155 K/uL
   308 mg/dL
   1.2 mg/dL
   26 mEq/L
   4.2 mEq/L
   47 mg/dL
   111 mEq/L
   146 mEq/L
   35.2 %
   12.8 K/uL
        [image002.jpg]
                             [**2183-11-29**]  04:17 AM
                             [**2183-11-29**]  04:00 PM
                             [**2183-11-30**]  04:16 AM
                             [**2183-11-30**]  06:00 PM
                             [**2183-11-30**]  11:24 PM
                             [**2183-12-1**]  05:00 AM
                             [**2183-12-1**]  03:50 PM
                             [**2183-12-1**]  06:00 PM
                             [**2183-12-2**]  06:00 AM
   WBC
   18.9
   16.6
   12.1
   11.1
   11.1
   12.8
   Hct
   38.2
   40.5
   39.6
   37.2
   37.5
   35.2
   Plt
   249
   211
   188
   160
   162
   155
   Cr
   1.2
   1.2
   1.2
   1.1
   1.0
   0.9
   1.0
   1.2
   Glucose
   [**Telephone/Fax (3) 3233**]61
   [**Telephone/Fax (3) 3293**]
   Other labs: PT / PTT / INR:12.5/24.0/1.1, ALT / AST:54/18, Alk Phos / T
   Bili:52/0.6, Differential-Neuts:92.7 %, Lymph:1.5 %, Mono:5.6 %,
   Eos:0.2 %, Albumin:2.9 g/dL, LDH:255 IU/L, Ca++:7.7 mg/dL, Mg++:2.7
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM): Continues unresponsive. [**Month (only) 51**]
   have increased edema in setting of GBM since stopping steroids.
   Reiterated to the family that given decision not to pursue further
   radiation for the GBM steroids not indicated.
 ATRIAL FIBRILLATION (AFIB): Increased ventricular rate. Discussed
   role of adding back beta blocker at this point with [**Doctor Last Name 129**].  Given his
   increased respiraotry distress decision was made to continue with
   morphine titrating for relief of respiratory distress and not to add
   back rate control meds as don't feel this is contributing to
   discomfort.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2183-11-29**] 02:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held  Comments: Spoke separately with son
   [**Name (NI) 129**] and daughter [**Name (NI) **]
   [**Last Name (NamePattern1) 36**] status: [**Name (NI) 583**] measures only
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill